US04517004
A mixture of p-(N-methylamino)phenol sulfate (13.6 g, 80 mmol), calcium carbonate (15 g, 160 mmol and water (30 mL) was triturated with mortar and pestil, and repeatedly extracted with ether (8×60 mL). The combined ether extracts were washed with water, and dried with anhydrous sodium sulfate. The solution was then evaporated to dryness, and the solid residue dried in vacuum over phosphorus pentoxide at ambient temperature to provide 7.32 g (60 mmol) of p-(N-methylamino)phenol. To anhydrous ether (240 mL) was added pyridine (4.8 mL, 60 mmol) and p-(N-methylamino)phenol 7.32 g (60 mmol). The resulting solution was added dropwise to a cooled solution (0° C.) of phosphorous oxychloride (5.4 mL, 60 mmol) in ether (100 mL) with stirring under nitrogen. The reaction mixture was stirred at room temperature for 60 minutes, filtered, and the filtrate added dropwise to a saturated solution of anhydrous ammonia in ether (450 mL, 0° C.). The reaction mixture was allowed to warm to room temperature with stirring (60 minutes). A white precipitate formed which was isolated by filtration, rinsed with ether and dried in vacuum over phosphorous pentoxide at room temperature.

reactant | p-(N-methylamino)phenol sulfate | 80 mmol, 13.6 g | S(=O)(=O)(O)OC1=CC=C(C=C1)NC | C7H9NO4S
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | water | 30 mL | O | H2O
product | p-(N-methylamino)phenol | 60 mmol, 7.32 g | CNC1=CC=C(C=C1)O | C7H9NO
